* Sky130 buffer PEX netlist
.subckt buffer INP OUT VDD GND
X0 OUT a_280_160# GND GND sky130_fd_pr__nfet_01v8 ad=0.1455 pd=1.57 as=0.1455 ps=1.57 w=0.485 l=0.15
X1 VDD a_280_160# OUT VDD sky130_fd_pr__pfet_01v8 ad=0.222 pd=2.08 as=0.111 ps=1.04 w=0.74 l=0.15
X2 OUT a_280_160# VDD VDD sky130_fd_pr__pfet_01v8 ad=0.111 pd=1.04 as=0.222 ps=2.08 w=0.74 l=0.15
X3 a_280_160# INP VDD VDD sky130_fd_pr__pfet_01v8 ad=0.378 pd=3.12 as=0.378 ps=3.12 w=1.26 l=0.15
X4 a_280_160# INP GND GND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
C0 OUT a_280_160# 0.06164f
C1 INP VDD 0.11491f
C2 INP a_280_160# 0.05438f
C3 OUT INP 0
C4 a_280_160# VDD 0.46865f
C5 OUT VDD 0.16013f
C6 OUT GND 0.26057f
C7 VDD GND 1.31683f
C8 a_280_160# GND 0.10855f
.ends buffer